US06579872B1
N-[2-methyl-5-(3-morpholinobenzamido)phenyl]-3-(2,3-epoxypropoxy)benzamide
1-Bromo-2,3-epoxypropane (1.5 ml) was added to a stirred mixture of N-[2-methyl-5-(3-morpholinobenzamido)phenyl]-3-hydroxybenzamide (1.5 g), caesium carbonate (2.84 g) and DMA (100 ml) and the resultant solution was stirred at ambient temperature for 18 hours. The mixture was poured into water (750 ml). The precipitate was isolated, washed with water and dried under vacuum at 60° C. There was thus obtained the title compound (1.3 g); NMR Spectrum: (DMSOd6) 2.19 (s, 3H), 2.73 (m, 1H), 2.85 (m, 1H), 3.2 (t, 4H), 3.75 (t, 4H), 3.91 (m, 1H), 4.43 (m, 1H), 7.2 (m, 3H), 7.37 (m, 4H), 7.66 (m, 3H), 7.56 (m, 3H), 7.8 (s, 1H), 9.9 (s, 1H), 10.14 (s, 1H); Mass Spectrum: M−H− 486.

reactant | 1-Bromo-2,3-epoxypropane | 1.5 ml | BrCC1CO1 | C3H5BrO
reactant | N-[2-methyl-5-(3-morpholinobenzamido)phenyl]-3-hydroxybenzamide | 1.5 g | CC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)N1CCOCC1)=O)NC(C1=CC(=CC=C1)O)=O | C25H25N3O4
reactant | caesium carbonate | 2.84 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMA | 100 ml | CC(=O)N(C)C | C4H9NO
solvent | water | 750 ml | O | H2O
product | N-[2-methyl-5-(3-morpholinobenzamido)phenyl]-3-(2,3-epoxypropoxy)benzamide | 1.3 g | CC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)N1CCOCC1)=O)NC(C1=CC(=CC=C1)OCC1CO1)=O | C28H29N3O5
